US07888362B2
By a similar method as in Example 18, 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-3,4-dihydro-2H-isoquinolin-1-one was prepared from 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3,4-dihydro-2H-isoquinolin-1-one using ethyl iodide, and after it was made into a methanol solution, 0.5N hydrochloric acid methanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from a mixed solvent of methanol-ethyl acetate and thereby 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-3,4-dihydro-2H-isoquinolin-1-one dihydrochloride was obtained in the form of a white powder.

reactant | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-3,4-dihydro-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1CCN(C(C1=C2)=O)CC | C26H31N3O2S
reactant | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3,4-dihydro-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1CCNC(C1=C2)=O | C24H27N3O2S
reactant | ethyl iodide | C(C)I | C2H5I
reactant | hydrochloric acid methanol | 0.5N | CO.Cl
solvent | methanol | CO | CH4O
product | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-ethyl-3,4-dihydro-2H-isoquinolin-1-one dihydrochloride | Cl.Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1CCN(C(C1=C2)=O)CC | InChI=1S/C26H31N3O2S.2ClH/c1-2-28-12-9-20-7-8-21(19-23(20)26(28)30)31-17-4-11-27-13-15-29(16-14-27)24-5-3-6-25-22(24)10-18-32-25;;/h3,5-8,10,18-19H,2,4,9,11-17H2,1H3;2*1H
